US04209515
6.8 ml of 33% ethanolic dimethylamine solution is added to a solution of 5.6 g (about 0.015 mole) of 1-[2-(α-hydroxybenzyl)-4-chlorophenyl]-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxamide and 0.225 g of sodium iodide in 80 ml of methanol, and the whole is refluxed for 5 hours with stirring. The reaction mixture is thereupon concentrated in vacuo. Water and saturated sodium carbonate solution are added to the residue until the pH-value has reached 10, and extraction is performed twice with ethyl acetate. The organic phase is washed with water, and is then extracted three times with 1 N hydrochloric acid solution. Sodium carbonate is added to the aqueous acidified extracts until the pH-value of 10 is obtained. The base that the precipitated is taken up in ether; the ether solution is washed twice with water and once with saturated sodium chloride solution; it is dried over sodium sulphate and concentrated in vacuo to yield amorphous 1-[2-(α-hydroxybenzyl)-4-chlorophenyl]-5-[(dimethylamino)-methyl] -1H-1,2,4-triazole-3-carboxamide. This is converted as follows into the crystalline hydrochloride: the crude base is dissolved in ethyl acetate, and ethereal hydrogen chloride solution is added until the pH-value is 4. The precipitated hydrochloride is filtered off with suction and washed with ethyl acetate and ether. After drying in vacuum, there is obtained 1-[2-(α-hydroxybenzyl)-4-chlorophenyl]-5-[(dimethylamino)-methyl]-1H-1,2,4-triazole-3-carboxamide-hydrochloride, m.p. 155°-157° (with decomposition).

reactant | dimethylamine | 6.8 ml | CNC | C2H7N
reactant | 1-[2-(α-hydroxybenzyl)-4-chlorophenyl]-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxamide | about 0.015 mole, 5.6 g | OC(C1=CC=CC=C1)C1=C(C=CC(=C1)Cl)N1N=C(N=C1CCl)C(=O)N | C17H14Cl2N4O2
reactant | sodium iodide | 0.225 g | [I-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | 1-[2-(α-hydroxybenzyl)-4-chlorophenyl]-5-[(dimethylamino)-methyl] -1H-1,2,4-triazole-3-carboxamide | OC(C1=CC=CC=C1)C1=C(C=CC(=C1)Cl)N1N=C(N=C1CN(C)C)C(=O)N | C19H20ClN5O2
